US06605629B1
A mixture of 4-(4-trifluoromethylphenyl)-2-oxazolone (10.8 g), methyl acrylate (8.10 g), boron trifluoride diethyl ether complex (6.86 g) and toluene (50 ml) was stirred with heating under reflux for 3 hours. The reaction mixture was concentrated, and poured into ice water (200 ml). The solid precipitates were filtered, washed with water, and air-dried. Recrystallization from isopropyl alcohol-isopropyl ether gave methyl 3-[2-oxo-4-(4-trifluoromethylphenyl)-4-oxazolin-5-yl]propionate as pale yellow prisms (4.00 g, 27%). Melting point 156-157° C.

reactant | 4-(4-trifluoromethylphenyl)-2-oxazolone | 10.8 g | FC(C1=CC=C(C=C1)C=1NC(OC1)=O)(F)F | C10H6F3NO2
reactant | methyl acrylate | 8.10 g | C(C=C)(=O)OC | C4H6O2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 3-[2-oxo-4-(4-trifluoromethylphenyl)-4-oxazolin-5-yl]propionate | 4.00 g, 27% | O=C1OC(=C(N1)C1=CC=C(C=C1)C(F)(F)F)CCC(=O)OC | C14H12F3NO4
